US05770595
A solution of 1-(13-tetradecenyl)-3,7-dimethylxanthine (2.00 g, 5.35 mmol), 4-methylmorpholine-N-oxide (2.72 ml, 60% wt. in water, 15.8 mmol) and potassium osmate dihydrate (21 mg, 0.05 mmol) in acetone/water, in a ratio of 3:1 (80 mL), was stirred for 16 hours. Water (100 ml) and sodium sulfite (1 g) were added and stirred for 1 hour. The reaction mixture was extracted with dichloromethane (3×100 ml) and the organic phase dried over magnesium sulfate. The solvent was evaporated to obtain 2.1 g of 1-(13,14-dihydroxytetradecyl)-3,7-dimethylxanthine as a white solid (96% yield).

reactant | 1-(13-tetradecenyl)-3,7-dimethylxanthine | 5.35 mmol, 2.00 g | C(CCCCCCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C21H34N4O2
reactant | 4-methylmorpholine-N-oxide | 15.8 mmol, 2.72 ml | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Water | 100 ml | O | H2O
reactant | sodium sulfite | 1 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone water | CC(=O)C.O
product | 1-(13,14-dihydroxytetradecyl)-3,7-dimethylxanthine | 2.1 g, 96% yield | OC(CCCCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C21H36N4O4
